US06627099B2
Into ethyl acetate was dissolved IM-8 (42 g) which was obtained as described above. NaI (42.5 g) was added. This mixture was refluxed for three hours. The reaction mixture was concentrated, and then refined with silica gel column chromatography (ethyl acetate/hexane) to obtain 36.3 g of IM-9.

reactant | IM-8 | 42 g | CN1C=C(C2=CC=CC=C21)C3=C(C(=O)N(C3=O)C)OC | C15H14N2O3
reactant | NaI | 42.5 g | [Na+].[I-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | IM-9 | 36.3 g | CCCOC1=C(C(=O)N(C1=O)C)C2=CN(C3=CC=CC=C32)C | C17H18N2O3
